US06977264B2
Step (b) N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]azetidin-3-ylcarboxamide
The title compound was prepared according to the procedure described in Example 3 (Step b) from tert-butyl 3-(N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)-amino]phenyl}-piperidyl)-2-oxoethyl]-carbamoyl)azetidinecarboxylate (Step a) (309 mg, 0.5 mmol) and 50% TFA in CH2Cl2 (20 mL). Purification by preparative reverse phase HPLC [Phenomenex; 5 μm 250×21.2 mm, 5% to 95% CH3CN (0.1% TFA) in H2O (0.1% TFA) over 30 min, then 100% CH3CN (0.1% TFA) for 2 min]provided the title compound (TFA salt) as a white foam (205 mg). MS (ESI, pos. ion) m/z: 519 (M+1); (ESI, neg. ion) m/z: 517 (M−1). Calc'd for C25H31ClN4O4S: 518.18. Anal. Calcd for C25H11ClN4O4S 1.4C2HF3O2: C, 49.20; H, 4.81; N, 8.26. Found: C, 49.31; H, 4.91; N, 8.25.

reactant | tert-butyl 3-(N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)-amino]phenyl}-piperidyl)-2-oxoethyl]-carbamoyl)azetidinecarboxylate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)C1CN(C1)C(=O)OC(C)(C)C | C30H39ClN4O6S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}-piperidyl)-2-oxoethyl]azetidin-3-ylcarboxamide | 205 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)C1CNC1 | C25H31ClN4O4S
